US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-2-[2-{2-(t-butyldimethylsilyloxymethyl)imidazol-1-yl}ethyl]-4-methylsulfonyloxypyrrolidine (34.5 g) in methanol (170 ml) was added concentrated hydrochloric acid (17 ml) dropwise under cooling in an ice bath. After stirring for 10 minutes, the mixture was warmed to room temperature and stirred for another 3 hours. The mixture was quenched by the addition of a solution of sodium methoxide in methanol (28% W/W, 39.4 g), then ethyl acetate (340 ml) was added. The precipitate was filtered off and the filtrate was concentrated to give a crude oil. The oil was chromatographed on a 300 g of silica gel eluting with a mixture of chloroform and methanol (100:0 to 95:5) to give (2R,4R)-1-allyloxycarbonyl-2-[2-(2-hydroxymethylimidazol-1-yl) ethyl]-4-methylsulfonyloxypyrrolidine (15.7 g) as a light brown paste.

reactant | (2R,4R)-1-allyloxycarbonyl-2-[2-{2-(t-butyldimethylsilyloxymethyl)imidazol-1-yl}ethyl]-4-methylsulfonyloxypyrrolidine | 34.5 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C(=NC=C1)CO[Si](C)(C)C(C)(C)C | C21H37N3O6SSi
reactant | hydrochloric acid | 17 ml | Cl | ClH
solvent | methanol | 170 ml | CO | CH4O
product | (2R,4R)-1-allyloxycarbonyl-2-[2-(2-hydroxymethylimidazol-1-yl) ethyl]-4-methylsulfonyloxypyrrolidine | 15.7 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C(=NC=C1)CO | C15H23N3O6S
